US04166128
To a solution of 12.4 g of 2-(2,6-dichloroanilino)-phenylglyoxylic acid in 80 ml of anhydrous acetone were added 6.05 g of anhydrous potassium carbonate and then 7.5 ml of dimethyl sulfate at room temperature, and the mixture was stirred for 1 hour. The reaction mixture was filtered and washed with anhydrous acetone. The filtrate was concentrated under 10 mmHg without heating. The residue was recrystallized from ethanol to give 12.3 g of methyl 2-(2,6-dichloroanilino)phenylglyoxylate as yellow prisms. m.p. 124.5-125.5° C. Yield: 95% of theoretical amount

reactant | 2-(2,6-dichloroanilino)-phenylglyoxylic acid | 12.4 g | ClC1=C(NC2=C(C=CC=C2)C(C(=O)O)=O)C(=CC=C1)Cl | C14H9Cl2NO3
reactant | potassium carbonate | 6.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 7.5 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | methyl 2-(2,6-dichloroanilino)phenylglyoxylate | 12.3 g, Yield: 95% | ClC1=C(NC2=C(C=CC=C2)C(C(=O)OC)=O)C(=CC=C1)Cl | C15H11Cl2NO3
